US07683057B2
Preparation of 5-[5-Fluoro-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (1-acetyl-4-hydroxy-pyrrolidin-3-yl)-amide
To the solution of 5-[5-Fluoro-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (4-hydroxy-pyrrolidin-3-yl)-amide (150 mg, 0.39 mmol) and DIEA (89 mg, 0.69 mmol) was added CH3COCl (33.7 mg, 0.43 mmol) on an ice bath. The mixture was stirred at r.t. for 3 hrs. After the reaction was complete, DMF was evaporated under reduced pressure and the residue was triturated with methanol and the solid was collected by filtration, washed with ethanol and dried in vacuum to give title compound (82 mg, 57% yield) as an orange solid. 1H NMR (300 MHz, DMSO-d6): δ=13.67 (s, 1H), 10.87 (s, 1H), 8.07-8.10 (d, 1H), 7.71-7.85 (m, 3H), 6.82-6.92 (m, 2H), 5.34-5.44 (dd, 1H), 4.13-4.18 (d, 2H), 3.67-3.81 (m, 4H), 2.38-2.40 (ds, 6H), 1.92-1.93 (d, 3H). LC/MS: 427.0 [M+H]+.

reactant | 5-[5-Fluoro-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (4-hydroxy-pyrrolidin-3-yl)-amide | 0.39 mmol, 150 mg | OC1C(CNC1)NC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)F)=O)C | C20H21FN4O3
reactant | DIEA | 0.69 mmol, 89 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | CH3COCl | 0.43 mmol, 33.7 mg | CC(=O)Cl | C2H3ClO
product | 5-[5-Fluoro-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (1-acetyl-4-hydroxy-pyrrolidin-3-yl)-amide | 82 mg, 57% yield | C(C)(=O)N1CC(C(C1)O)NC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)F)=O)C | C22H23FN4O4
